US06919336B2
[4-(2,4-Difluoro-phenylamino)-phenyl]-{2-methoxy-5-[3-(4-methyl-piperazin-1-yl)-prop-1-ynyl]-phenyl}-methanone
(5-Bromo-2-methoxy-phenyl)-[4-(2,4-difluoro-phenylamino)-phenyl]-methanone (0.5 g; 1.18 mmol), 1-methyl-4-prop-2-ynyl-piperazine (0.33 g; 2.37 mmol), PdCl2(PPh3)2 (0.158 g; 0.22 mmol), Cs2CO3 (1.0 g; 3.1 mmol) and CuI (50 mg; 0.26 mmol) are dissolved in diethylene glycol dimethyl ether (10 ml) and N,N-diisopropylethylamine (5 ml) and heated to 140° C. for 1 hour. The reaction mixture is diluted with TBME, filtered, evaporated and purified by chromatography (SiO2, EtOAc/MeOH/NH3conc 100/0/0>90/10/1) to yield the crude title compound as brown foam. The latter is dissolved in 2N HCl, washed with EtOAc, Na2CO3 added to the aqueous phase and extracted with EtOAc. The organic phase is filtered through Alox and evaporated to give the pure product as yellow foam (177 mg; 32%).

reactant | (5-Bromo-2-methoxy-phenyl)-[4-(2,4-difluoro-phenylamino)-phenyl]-methanone | 1.18 mmol, 0.5 g | BrC=1C=CC(=C(C1)C(=O)C1=CC=C(C=C1)NC1=C(C=C(C=C1)F)F)OC | C20H14BrF2NO2
reactant | 1-methyl-4-prop-2-ynyl-piperazine | 2.37 mmol, 0.33 g | CN1CCN(CC1)CC#C | C8H14N2
reactant | Cs2CO3 | 3.1 mmol, 1.0 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | N,N-diisopropylethylamine | 5 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | diethylene glycol dimethyl ether | 10 ml | COCCOCCOC | C6H14O3
solvent | TBME | CC(C)(C)OC | C5H12O
solvent | HCl | 2N | Cl | ClH
catalyst | PdCl2(PPh3)2 | 0.22 mmol, 0.158 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.26 mmol, 50 mg | [Cu]I
product | [4-(2,4-Difluoro-phenylamino)-phenyl]-{2-methoxy-5-[3-(4-methyl-piperazin-1-yl)-prop-1-ynyl]-phenyl}-methanone | 177 mg, 32% | FC1=C(C=CC(=C1)F)NC1=CC=C(C=C1)C(=O)C1=C(C=CC(=C1)C#CCN1CCN(CC1)C)OC | C28H27F2N3O2
